US07018997B2
Step 1: Ethyl imidazo[2,1-b]-benzthiazole-2-carboxylate:
Ethyl bromopyruvate (9.8 g, 50 mmol) was added dropwise to a stirred solution of 2-aminobenzothiazole (7.5 g, 50 mmol) in DMF (100 ml) at room temperature. After the addition, the reaction mixture was heated to reflux for 6 h. The reaction mixture was cooled to room temperature and quenched with ice cold water. The aqueous layer was neutralized with NH4OH and the separated solid was fitered. It was washed well with water and dried. The crude product obtained was taken to next step without purification.

reactant | Ethyl bromopyruvate | 50 mmol, 9.8 g | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | 2-aminobenzothiazole | 50 mmol, 7.5 g | NC=1SC2=C(N1)C=CC=C2 | C7H6N2S
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | Ethyl imidazo[2,1-b]-benzthiazole-2-carboxylate | N=1C(=CN2C1SC1=C2C=CC=C1)C(=O)OCC | C12H10N2O2S
